### PR TITLE
[Merged by Bors] - chore(RingTheory/IsAdjoinRoot): refactor IsAdjoinRoot

### PR DESCRIPTION
**Pull request by artie2000**
* Change definition of `IsAdjoinRoot` to use bundled `AlgHom`
* Remove duplicated API for `AdjoinRoot.isAdjoinRootMonic`
* Remove bad `simp` lemma `isAdjoinRoot_map_eq_mk`
* Make `map_repr` `simp`
* Rename some lemmas to be more descriptive

The data of `IsAdjoinRoot` is determined by `IsAdjoinRoot.root`. The simp normal form was previously unclear; now it runs through simplifying `IsAdjoinRoot.root` rather than `IsAdjoinRoot.map`.

---

- [x] depends on: #27374 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/IsAdjoinRoot.lean [hunk 1]
```diff
@@ -274,89 +264,73 @@ variable (f)
...
     sub_self, zero_sub, dvd_neg]
   exact ⟨_, rfl⟩
 
-theorem modByMonic_repr_map (h : IsAdjoinRootMonic S f) (g : R[X]) :
+theorem modByMonic_repr_map (g : R[X]) :
     h.repr (h.map g) %ₘ f = g %ₘ f :=
   modByMonic_eq_of_dvd_sub h.Monic <| by rw [← h.mem_ker_map, RingHom.sub_mem_ker_iff, map_repr]
 
 /-- `IsAdjoinRoot.modByMonicHom` sends the equivalence class of `f` mod `g` to `f %ₘ g`. -/
-def modByMonicHom (h : IsAdjoinRootMonic S f) : S →ₗ[R] R[X] where
```
Comment (eric-wieser) [inline Mathlib/RingTheory/IsAdjoinRoot.lean]: For large-scale style changes like this, it's much better to put them in a standalone PR. Mixing them with a refactor that changes the API is just asking for your PR to stall, as now there are two orthogonal thing that you need to find a reviewer that agrees with both of.

Comment (artie2000) [reply Mathlib/RingTheory/IsAdjoinRoot.lean]: Good point, I'll separate the breaking changes from the stylistic changes and golfs

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/RingTheory/AdjoinRoot.lean [hunk 2]
```diff
@@ -133,6 +133,14 @@ instance [Monoid S] [DistribMulAction S R] [IsScalarTower S R R] (f : R[X]) :
 instance [CommSemiring S] [Algebra S R] : Algebra S (AdjoinRoot f) :=
   Ideal.Quotient.algebra S
 
+/-- `R`-algebra homomorphism from `R[x]` to `AdjoinRoot f` sending `X` to the `root`. -/
+def mkₐ : R[X] →ₐ[R] AdjoinRoot f :=
+  Ideal.Quotient.mkₐ R _
+
+@[simp] theorem mkₐ_toRingHom : ↑(mkₐ f) = mk f := rfl
```
Comment (YaelDillies) [inline Mathlib/RingTheory/AdjoinRoot.lean]:
```suggestion
@[simp, norm_cast] theorem mkₐ_toRingHom : ↑(mkₐ f) = mk f := rfl
```

File: Mathlib/RingTheory/IsAdjoinRoot.lean [hunk 3]
```diff
@@ -241,7 +235,8 @@ theorem liftHom_map (z : R[X]) : h.liftHom x hx' (h.map z) = aeval x z := by
   rw [← lift_algebraMap_apply, lift_map, aeval_def]
 
 @[simp]
-theorem liftHom_root : h.liftHom x hx' h.root = x := by rw [← lift_algebraMap_apply, lift_root]
+theorem liftHom_root : h.liftHom x hx' h.root = x := by
+  rw [← lift_algebraMap_apply, lift_root]
```
Comment (YaelDillies) [inline Mathlib/RingTheory/IsAdjoinRoot.lean]: Accident?

File: Mathlib/RingTheory/IsAdjoinRoot.lean [hunk 4]
```diff
@@ -257,33 +252,23 @@ variable (f)
...
+  map := AdjoinRoot.mkₐ f
+  map_surjective := Ideal.Quotient.mkₐ_surjective _ _
   ker_map := by ext; simp [Ideal.mem_span_singleton]
-  algebraMap_eq := AdjoinRoot.algebraMap_eq f
 
 /-- `AdjoinRoot f` is indeed given by adjoining a root of `f`. If `f` is monic this is more
 powerful than `AdjoinRoot.isAdjoinRoot`. -/
-protected def isAdjoinRootMonic (hf : Monic f) : IsAdjoinRootMonic (AdjoinRoot f) f where
+protected abbrev isAdjoinRootMonic (hf : Monic f) : IsAdjoinRootMonic (AdjoinRoot f) f where
   __ := AdjoinRoot.isAdjoinRoot f
```
Comment (YaelDillies) [inline Mathlib/RingTheory/IsAdjoinRoot.lean]: So now it's an abbrev of a constructor application? Why? Can't you slap `simps` on it instead?

File: Mathlib/RingTheory/IsAdjoinRoot.lean [hunk 5]
```diff
@@ -514,15 +498,15 @@ This is the converse of `IsAdjoinRoot.ofEquiv`: this turns an `IsAdjoinRoot` int
...
-  { h.liftHom h'.root h'.aeval_root with
-    toFun := h.liftHom h'.root h'.aeval_root
-    invFun := h'.liftHom h.root h.aeval_root
-    left_inv := fun x => by rw [← h.map_repr x]; simp
-    right_inv := fun x => by rw [← h'.map_repr x]; simp }
+  { h.liftHom h'.root h'.aeval_root_self with
+    toFun := h.liftHom h'.root h'.aeval_root_self
+    invFun := h'.liftHom h.root h.aeval_root_self
+    left_inv := fun x => by rw [← h.map_repr x]; simp [- map_repr]
+    right_inv := fun x => by rw [← h'.map_repr x]; simp [- map_repr] }
```
Comment (YaelDillies) [inline Mathlib/RingTheory/IsAdjoinRoot.lean]: Does this work maybe?
```suggestion
    left_inv x := by simp [← h.map_repr x]
    right_inv x := by simp [← h'.map_repr x] }
```

File: Mathlib/RingTheory/IsAdjoinRoot.lean (hunk 4 above)
Comment (artie2000) [reply Mathlib/RingTheory/IsAdjoinRoot.lean]: I guess I could, but I don't see the point of making the projections of this opaque.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/RingTheory/IsAdjoinRoot.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/IsAdjoinRoot.lean]: My experience is that making constructor applications abbrevs results in large proof terms ending up in your context regularly, which itself hinders performance, sometimes quite badly. This is why I ask. I would even say that you shouldn't make a constructor application abbrev unless you have some weird specific situation.

Also by "opaque" you mean "semireducible", right?

File: Mathlib/RingTheory/IsAdjoinRoot.lean (hunk 5 above)
Comment (artie2000) [reply Mathlib/RingTheory/IsAdjoinRoot.lean]: well that would lead to a loop but yes I can move the x across

File: Mathlib/RingTheory/IsAdjoinRoot.lean (hunk 4 above)
Comment (artie2000) [reply Mathlib/RingTheory/IsAdjoinRoot.lean]: yeah
although this application is pretty simple, no? no new data, just one proof term

Comment (artie2000) [reply Mathlib/RingTheory/IsAdjoinRoot.lean]: OK simps didn't work but I made it a def

File: Mathlib/RingTheory/IsAdjoinRoot.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/IsAdjoinRoot.lean]: What about
```suggestion
    left_inv x := by simp [← h.map_repr x, -map_repr]
    right_inv x := by simp [← h'.map_repr x, -map_repr] }
```

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer delegate

File: Mathlib/RingTheory/AdjoinRoot.lean [hunk 6]
```diff
@@ -131,6 +131,14 @@ instance [Monoid S] [DistribMulAction S R] [IsScalarTower S R R] (f : R[X]) :
 instance [CommSemiring S] [Algebra S R] : Algebra S (AdjoinRoot f) :=
   Ideal.Quotient.algebra S
 
+/-- `R`-algebra homomorphism from `R[x]` to `AdjoinRoot f` sending `X` to the `root`. -/
+def mkₐ : R[X] →ₐ[R] AdjoinRoot f :=
+  Ideal.Quotient.mkₐ R _
+
+@[simp, norm_cast] theorem mkₐ_toRingHom : ↑(mkₐ f) = mk f := rfl
+
+@[simp] theorem coe_mkₐ : ⇑(mkₐ f) = mk f := rfl
```
Comment (Vierkantor) [inline Mathlib/RingTheory/AdjoinRoot.lean:141]: What do you think about making `mkₐ` the preferred spelling (since it is strictly stronger) at some future point?

File: Mathlib/RingTheory/IsAdjoinRoot.lean [hunk 7]
```diff
@@ -268,21 +261,15 @@ protected def isAdjoinRootMonic (hf : Monic f) : IsAdjoinRootMonic (AdjoinRoot f
...
-theorem isAdjoinRootMonic_map_eq_mk (hf : f.Monic) :
-    (AdjoinRoot.isAdjoinRootMonic f hf).map = AdjoinRoot.mk f := rfl
+theorem isAdjoinRoot_map_eq_mkₐ : (AdjoinRoot.isAdjoinRoot f).map = AdjoinRoot.mkₐ f := rfl
 
 @[simp]
 theorem isAdjoinRoot_root_eq_root : (AdjoinRoot.isAdjoinRoot f).root = AdjoinRoot.root f := by
   simp [AdjoinRoot.isAdjoinRoot, IsAdjoinRoot.root]
 
-@[simp]
-theorem isAdjoinRootMonic_root_eq_root (hf : Monic f) :
```
Comment (Vierkantor) [inline Mathlib/RingTheory/IsAdjoinRoot.lean:282]: Please add a deprecation for the removed `IsAdjoinRootMonic` lemmas.

**Review by Vierkantor — APPROVED** [review]
It is slightly annoying to review multiple changes at once, but they are all positive. So:

bors d+

File: Mathlib/RingTheory/AdjoinRoot.lean (hunk 6 above)
Comment (artie2000) [reply Mathlib/RingTheory/AdjoinRoot.lean:141]: I know very little about the homomorphism API but my understanding that we live in hom typeclass hell and therefore the ring hom type is sometimes better for <reasons>

File: Mathlib/RingTheory/IsAdjoinRoot.lean (hunk 7 above)
Comment (artie2000) [reply Mathlib/RingTheory/IsAdjoinRoot.lean:282]: sorry would this just be a deprecation attribute for the name? with no alias?

File: Mathlib/RingTheory/AdjoinRoot.lean (hunk 6 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/AdjoinRoot.lean:141]: I don't think that's the case, a priori. Alg homs coerce to ring homs, therefore you should be able to use `mkₐ` wherever you previously used `mk`.

Comment (artie2000) [reply Mathlib/RingTheory/AdjoinRoot.lean:141]: ah, cool! but yeah for a future PR refactoring `AdjoinRoot`

Comment (YaelDillies) [reply Mathlib/RingTheory/AdjoinRoot.lean:141]: Sorry to insist, but could this be done in the current PR? *You* are introducing a second spelling for the canonical map to `AdjoinRoot f`, and this is a regression.

Comment (artie2000) [reply Mathlib/RingTheory/AdjoinRoot.lean:141]: I'll open a new PR and add a dependency to this one

Comment (YaelDillies) [reply Mathlib/RingTheory/AdjoinRoot.lean:141]: But why are you not simply replacing `mk` with `mkₐ` here?

Comment (artie2000) [reply Mathlib/RingTheory/AdjoinRoot.lean:141]: If I understand what you are asking for correctly, that's a massive refactor that I think should be done separately to this PR, which is about `IsAdjoinRoot`
But you're right that it should be done prior to this refactor of `IsAdjoinRoot`
Which is why I was intending to open a new PR that this one depends on

File: Mathlib/RingTheory/IsAdjoinRoot.lean (hunk 7 above)
Comment (artie2000) [reply Mathlib/RingTheory/IsAdjoinRoot.lean:282]: I'm still confused by this request - @YaelDillies are you able to advise?

Comment (YaelDillies) [reply Mathlib/RingTheory/IsAdjoinRoot.lean:282]: Anne is basically saying
> You deleted lemma `isAdjoinRootMonic_root_eq_root`. There might be downstream users of lemma `isAdjoinRootMonic_root_eq_root`. What should those downstream users use instead?

I personally can't tell from the diff what the replacement for `isAdjoinRootMonic_root_eq_root` is, so I can't advise further

Comment (Vierkantor) [reply Mathlib/RingTheory/IsAdjoinRoot.lean:282]: If this is removed because there is another lemma `foo` doing the same thing, then you can write `@[deprecated foo]`. If this is removed because a tactic like `simp` can prove it, then you can write something like `@[deprecated "Use `by simp` instead"]`. Otherwise, why did it get removed?

Comment (artie2000) [reply Mathlib/RingTheory/IsAdjoinRoot.lean:282]: I appreciate the explanation :) I think I've added the deprecations as requested?

File: Mathlib/RingTheory/AdjoinRoot.lean (hunk 6 above)
Comment (artie2000) [reply Mathlib/RingTheory/AdjoinRoot.lean:141]: edit: change of plan per Yael's comments here: https://github.com/leanprover-community/mathlib4/pull/27954#pullrequestreview-3090500755 https://github.com/leanprover-community/mathlib4/pull/27954#issuecomment-3161165289

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Comment by YaelDillies** [comment]
Oh I guess it's already delegated 😇
